US05747518
1) 3-nitro-2-(4-chlorophenyl)thiophene
To 50 ml of toluene, 1 g of 2-bromo-3-nitrothiophene, 0.75 g of 4-chlorophenylboric acid, 5 ml of a 2M-aqueous potassium carbonate solution and 2 ml of ethanol were added and stirred at room temperature for 30 minutes in a nitrogen atmosphere. Successively 0.28 g of Pd(PPh3)4 was added and heat-refluxed for 2 hours. The aqueous layer was separated from the reaction mixture and the organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the residue thus obtained was purified by silica gel column chromatography to obtain 1.1 g of the product as a yellow crystal. The yield was 98%. 1H-NMR(CDCl3, δ value):7.29(1H, d, J=5.9), 7.43(4H, s), 7.66(1H, d, J=5.9)

reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-bromo-3-nitrothiophene | 1 g | BrC=1SC=CC1[N+](=O)[O-] | C4H2BrNO2S
reactant | 4-chlorophenylboric acid | 0.75 g | ClC1=CC=C(C=C1)OB(O)O | C6H6BClO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | 0.28 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 3-nitro-2-(4-chlorophenyl)thiophene | 1.1 g, yield was 98% | [N+](=O)([O-])C1=C(SC=C1)C1=CC=C(C=C1)Cl | C10H6ClNO2S
